US09260408B2
1-(5-Bromo-pyridin-3-yl)-pyrrolidin-2-one
In analogy to the procedure described for the preparation of intermediate A-9, pyrrolidin-2-one has been coupled to 3,5-dibromopyridine to yield the title compound as a light yellow solid. MS: 241.0, 243.0 (M+H+).

reactant | pyrrolidin-2-one | N1C(CCC1)=O | C4H7NO
reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
product | 1-(5-Bromo-pyridin-3-yl)-pyrrolidin-2-one | BrC=1C=C(C=NC1)N1C(CCC1)=O | C9H9BrN2O
